* source SOFTWARE_DEFINED_INSTRUMENTATION_AMPLIFIER
X_U1         VREF1 N00582 VDD VSS N00550 LMV324
X_U2         N00602 N00586 VDD VSS VOUT LMV324
X_U3         N00271 N00578 VDD VSS N00564 LMV324
X_U4         N00840 N00800 VDD VSS N00271 LMV324
R_R1         VSEN N00840  10k TC=0,0 
R_R2         VOFF+ N00840  10k TC=0,0 
R_R3         N00550 N00586  10k TC=0,0 
R_R4         N00586 VOUT  10k TC=0,0 
R_R5         N00582 N00550  10k TC=0,0 
R_RG         N00578 N00582  10k TC=0,0 
R_R7         N00564 N00578  10k TC=0,0 
R_R8         N00602 N00564  10k TC=0,0 
R_R9         VREF2 N00602  10k TC=0,0 
R_R10         VOFF- N00800  10k TC=0,0 
R_R11         N00800 N00271  10k TC=0,0 
V_V1         VDD 0 5
V_V2         VOFF+ 0 0
V_V3         VOFF- 0 0
V_V7         VREF1 0 2.5
V_V8         VREF2 0 1.5
V_V10         0 VSS 0
V_V11         VSEN 0  AC 1k
+SIN 2.5 0.5 1k 0 0 0
