* source SOFTWARE_DEFINED_INSTRUMENTATION_AMPLIFIER
R_R1         VSEN N00840  1Meg TC=0,0 
R_R2         N01742 N00840  1Meg TC=0,0 
R_R3         N00550 N00586  10k TC=0,0 
R_R4         N00586 VOUT  10k TC=0,0 
R_R5         N00582 N00550  10k TC=0,0 
R_RG         N00578 N00582  10k TC=0,0 
R_R7         N00564 N00578  10k TC=0,0 
R_R8         N00602 N00564  10k TC=0,0 
R_R9         VREF2 N00602  10k TC=0,0 
V_V1         VDD 0 5
V_V2         VOFF+ 0 0
V_V3         VOFF- 0 5
V_V7         VREF1 0 0
V_V8         VREF2 0 0
V_V10         0 VSS 5
V_V11         VSEN 0 0
X_U1         N00840 N00271 VDD VSS N00271 TLV9102
X_U2         N00271 N00578 VDD VSS N00564 TLV9102
X_U3         VREF2 N00582 VDD VSS N00550 TLV9102
X_U4         N00602 N00586 VDD VSS VOUT TLV9102
R_R12         N01742 VDD  0 TC=0,0 
R_R13         0 N01742  50k TC=0,0 
R_R14         N19009 VDD  29k TC=0,0 
R_R15         0 N19009  21k TC=0,0 
